US08303944B2
(N,N′-(4,4′-biphenyldiylbis(1H-imidazole-4,2-diyl(2S)-2,1-pyrrolidinediyl((2S)-3-methyl-1-oxo-1,2-butanediyl)))bis(1,3-thiazol-2-amine)
A mixture of (S)-3-methyl-1-((S)-2-(5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazol-2-yl)pyrrolidin-1-yl)-2-(thiazol-2-ylamino)butan-1-one (275 mg, 0.527 mmol), (S)-1-((S)-2-(5-(4-bromophenyl)-1H-imidazol-2-yl)pyrrolidin-1-yl)-3-methyl-2-(thiazol-2-ylamino)butan-1-one (250 mg, 0.527 mmol), NaHCO3 (133 mg, 1.582 mmol) and Pd(Ph3P)4 (60.9 mg, 0.053 mmol) in DME (3 mL) and Water (1 mL) was degassed by passing a stream of N2 through the mixture. The vessel was sealed and the reaction was heated at 80° C. overnight. The reaction mixture was diluted with H2O and extracted with EtOAc containing ca. 5% MeOH (×3). The combined org layers were concentrated, dissolved in MeOH and loaded onto an MCX cartridge. The cartridge was washed with MeOH and then NH3 in MeOH (2M). The appropriate fractions were concentrated in vacuo and the residue was purified by prep HPLC (CH3CN—H2O—NH4OAc). The material was purified by column chromatography (biotage) eluting with 0 to 20% MeOH in EtOAc. Further purification by prep HPLC (CH3CN—H2O—NH4OAc) followed by lyophilization afforded the title compound as a colorless solid (6.9 mg, 2%).

reactant | (S)-3-methyl-1-((S)-2-(5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazol-2-yl)pyrrolidin-1-yl)-2-(thiazol-2-ylamino)butan-1-one | 0.527 mmol, 275 mg | CC([C@@H](C(=O)N1[C@@H](CCC1)C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)NC=1SC=CN1)C | C27H36BN5O3S
reactant | (S)-1-((S)-2-(5-(4-bromophenyl)-1H-imidazol-2-yl)pyrrolidin-1-yl)-3-methyl-2-(thiazol-2-ylamino)butan-1-one | 0.527 mmol, 250 mg | BrC1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N(CCC1)C([C@H](C(C)C)NC=1SC=CN1)=O | C21H24BrN5OS
reactant | NaHCO3 | 1.582 mmol, 133 mg | C(=O)(O)[O-].[Na+]
solvent | DME | 3 mL | COCCOC | C4H10O2
solvent | Water | 1 mL | O | H2O
catalyst | Pd(Ph3P)4 | 0.053 mmol, 60.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N,N′-(4,4′-biphenyldiylbis(1H-imidazole-4,2-diyl(2S)-2,1-pyrrolidinediyl((2S)-3-methyl-1-oxo-1,2-butanediyl)))bis(1,3-thiazol-2-amine) | 6.9 mg, 2% | C1(=CC=C(C=C1)C=1N=C(NC1)[C@H]1N(CCC1)C([C@H](C(C)C)NC=1SC=CN1)=O)C1=CC=C(C=C1)C=1N=C(NC1)[C@H]1N(CCC1)C([C@H](C(C)C)NC=1SC=CN1)=O | C42H48N10O2S2
